US05770597
2) Preparation of 2,3-dihydroxymethylpyridine
A solution prepared by dissolving 29.5 g, of 2,3-dimethoxycarbonylpyridine in 200 ml of ethylether was added dropwise to a solution prepared by suspending 10 g of lithium aluminum hydride in 300 ml of dried ethylether at 0° C. This mixed solution was stirred at 20° C. for 3 hours and 30 ml of water was slowly added thereto at 0° C. The resulting solution was stirred for 5 hours at the room temperature and solid was filtered through celite. The filtrate was evaporated under reduced pressure and then the residual product was purified by a silica gel column chromatography (chloroform : methanol (10:1)) to give 10.4 g of the above title compound (yield: 75%).

reactant | 2,3-dimethoxycarbonylpyridine | COC(=O)C1=NC=CC=C1C(=O)OC | C9H9NO4
reactant | lithium aluminum hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 30 ml | O | H2O
solvent | ethylether | 200 ml | C(C)OCC | C4H10O
solvent | ethylether | 300 ml | C(C)OCC | C4H10O
product | 2,3-dihydroxymethylpyridine | 10.4 g, yield: 75% | OCC1=NC=CC=C1CO | C7H9NO2
